US04159375
To a solution of 27.6 g. of 5-(o-fluorophenyl)-3-(methylthio)-1,2,4-triazine in 100 ml. of 1:1 methanol-tetrahydrofuran is added 6.4 ml. of 95% hydrazine. The mixture is refluxed for about 22 hours and then cooled. The solid is recovered by filtration, giving 5-(o-fluorophenyl)-3-hydrazino-1,2,4-triazine as yellow crystals.

reactant | 5-(o-fluorophenyl)-3-(methylthio)-1,2,4-triazine | FC1=C(C=CC=C1)C=1N=C(N=NC1)SC | C10H8FN3S
reactant | hydrazine | NN | H4N2
solvent | methanol tetrahydrofuran | CO.O1CCCC1
product | 5-(o-fluorophenyl)-3-hydrazino-1,2,4-triazine | FC1=C(C=CC=C1)C=1N=C(N=NC1)NN | C9H8FN5
